US05576313
Step 1: Preparation of N-t-butoxycarbonyl-4-methylsulfonamido-4-(2-methylbenzyl)piperidine
A mixture of N-t-butoxycarbonyl-4-amino-4-(2-methylbenzyl)piperidine (305 mg, 1.0 mmol), methane-sulfonyl chloride (0.31 ml, 4.0 mmol), and pyridine (0.1 ml, 1.2 mmol) in CH2Cl2 (2 mL) is stirred at room temp. overnight. Then concentrate the reaction mixture in vacuo and purify the residue by column chromatography on silica to afford the product.

reactant | N-t-butoxycarbonyl-4-amino-4-(2-methylbenzyl)piperidine | 1.0 mmol, 305 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC1=C(C=CC=C1)C)N | C18H28N2O2
reactant | methane-sulfonyl chloride | 4.0 mmol, 0.31 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 1.2 mmol, 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-t-butoxycarbonyl-4-methylsulfonamido-4-(2-methylbenzyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC1=C(C=CC=C1)C)NS(=O)(=O)C | C19H30N2O4S
